US06693118B2
1a/ 1-(α,α-diphenylacetyl)-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine.
8 g of α,α-diphenylacetyl chloride in 50 ml of methylene chloride were added dropwise to a mixture of 8 g (0.035 mole) of 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine, 50 ml of methylene chloride and 4.96 ml of triethylamine at the temperature of 0/+5° C. Stirring is effected for one hour at room temperature, the solvent is evaporated off under reduced pressure, the residue is taken up into ethyl ether, washing is effected with a 0.2M aqueous solution of hydrochloric acid, with water, with an aqueous solution of sodium carbonate and then with water. Drying is effected over sodium sulphate, the solvent is evaporated off under reduced pressure. 5 g of the title compound are obtained.

reactant | α,α-diphenylacetyl chloride | 8 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 0.035 mole, 8 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | triethylamine | 4.96 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(α,α-diphenylacetyl)-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 5 g | C1(=CC=CC=C1)C(C(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C26H22F3NO
